US07557135B2
To a suspension of (2-trifluoromethylphenyl)methanesulfonic acid (20.3 g, 84 mmol) in THF (1.9 L) and DMF (5.0 mL) at −20° C. was added oxalyl chloride (44.7 mL, 0.5 mol) slowly dropwise over 1 hr. The bath temperature was maintained below 0° C. for 4 h, at which point the reaction was evaporated to a volume of ˜250 mL and diluted with 500 mL of ethyl acetate. This solution was washed with brine in a separatory funnel and dried over magnesium sulfate. The solution was then evaporated to a brown oil. This oil was taken up in 500 mL of pet ether (30-50°) and heated with a heat gun until the oil went into solution. The solution was then placed into a dry-ice acetone bath to cool resulting in formation of a white crystalline material. This material was collected via filtration and dried to afford 19 g (85%) of (2-trifluoromethylphenyl)methanesulfonyl chloride as a white solid.

reactant | (2-trifluoromethylphenyl)methanesulfonic acid | 84 mmol, 20.3 g | FC(C1=C(C=CC=C1)CS(=O)(=O)O)(F)F | C8H7F3O3S
reactant | oxalyl chloride | 0.5 mol, 44.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 1.9 L | C1CCOC1 | C4H8O
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | (2-trifluoromethylphenyl)methanesulfonyl chloride | 19 g, 85% | FC(C1=C(C=CC=C1)CS(=O)(=O)Cl)(F)F | C8H6ClF3O2S
